US07326791B2
N-{(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-3-[(2S)-2-aminomethylpyrrolidin-1-ylcarbonyl]propyl}-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide
Prepared from N-{(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-3-[(2S)-2-tert-butoxycarbonylaminomethylpyrrolidin-1-ylcarbonyl]propyl}-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide followed by treatment with trifluoroacetic acid analogously to Example 17. Yield: 100%; Rf value: <0.1 (silica gel; ethyl acetate); C29H35ClN6O5 (551.09); mass spectrum: (M+H)+=551/553 (chlorine isotope).

reactant | N-{(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-3-[(2S)-2-tert-butoxycarbonylaminomethylpyrrolidin-1-ylcarbonyl]propyl}-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide | ClC1=CC2=C(NC(=N2)[C@H](CCC(=O)N2[C@@H](CCC2)CNC(=O)OC(C)(C)C)NC(C2=CC(=C(C=C2)C(=O)N2CCCC2)C)=O)C=C1 | C34H43ClN6O5
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | chlorine | ClCl | Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-{(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-3-[(2S)-2-aminomethylpyrrolidin-1-ylcarbonyl]propyl}-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide | Yield: 100% | ClC1=CC2=C(NC(=N2)[C@H](CCC(=O)N2[C@@H](CCC2)CN)NC(C2=CC(=C(C=C2)C(=O)N2CCCC2)C)=O)C=C1 | C29H35ClN6O3
